US05439914
Preparation of 4 - (4-methoxybenzyl)-N-benzoylisonipecotic acid
A solution of ethyl-N-benzoylisonipecotate (52 g, 0.2 mole) in THF (1 L) at -78° C. is treated with a solution of LDA in THF (110 mL of a 1 M solution). The solution is stirred at -78° for 15 minutes at which time 4-methoxybenzyl chloride (37.5 g, 0.22 moles) is added and the reaction warmed to room temperature over 2 hours. The reaction is concentrated at reduced pressure to @ one quarter volume and then poured into saturated aqueous sodium bicarbonate (1 L) and extracted with ethyl acetate (3×500 mL). The combined extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated at reduced pressure. The residue is chromatographed on silica gel with 30% ethyl acetate / hexane as eluent to give 66 g. The material thus obtained is dissolved in isopropyl alcohol (150 mL) and THF (150 mL) and treated with 10 N NaOH (250 mL). The mixture is heated to reflux for 48 hr. The reaction is cooled to room temperature and carefully neutralized by pouring over 1 L of crushed ice and adding 6 N HCl until pH 3. The mixture is then extracted with ethyl acetate (3×500 mL). The combined extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated at reduced pressure to give the product.

reactant | ethyl-N-benzoylisonipecotate | 0.2 mole, 52 g | C(C)OC(C1CCN(CC1)C(C1=CC=CC=C1)=O)=O | C15H19NO3
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 4-methoxybenzyl chloride | 0.22 moles, 37.5 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | NaOH | 10 N, 250 mL | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | isopropyl alcohol | 150 mL | C(C)(C)O | C3H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4 - (4-methoxybenzyl)-N-benzoylisonipecotic acid | COC1=CC=C(CC2(CCN(CC2)C(C2=CC=CC=C2)=O)C(=O)O)C=C1 | C21H23NO4
